US04555247
Preparation of 3-nitro-4-[N-(β-hydroxyethyl)-amino]-phenoxyethanol
0.1 mol (30.45 g) of β-chloroethyl 2-nitro-4-(β-hydroxyethoxy)-phenylcarbamate is introduced into 62 ml of water. 10 ml of 10N sodium carbonate solution are added gradually in the course of a few minutes, whilst stirring. The temperature rises to about 60° C. The temperature of the reaction medium is then raised to 70° C. and 22 ml of 10N sodium carbonate solution are then added, whilst stirring. Stirring is continued for 15 minutes at 70° C. After cooling, the desired product is filtered off; after washing with water, drying and recrystallisation from methanol, it melts at 82° C.

reactant | β-chloroethyl 2-nitro-4-(β-hydroxyethoxy)-phenylcarbamate | 0.1 mol, 30.45 g | [N+](=O)([O-])C1=C(C=CC(=C1)OCCO)NC(OCCCl)=O | C11H13ClN2O6
reactant | sodium carbonate | 10N, 10 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium carbonate | 10N, 22 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 62 ml | O | H2O
product | 3-nitro-4-[N-(β-hydroxyethyl)-amino]-phenoxyethanol | [N+](=O)([O-])C=1C=C(OC(C)O)C=CC1NCCO | C10H14N2O5
